US07728029B2
A solution of 5-bromomethyl-1-tert-butyl-1H-pyrazole-4-carboxylic acid methyl ester (220 mg, 0.79 mmol) in ethanol (4.0 mL, 0.2M) was treated with sodium ethoxide (65.4 mg, 0.96 mmol). The reaction mixture was warmed to 90° C. where it was stirred for 2.5 h. At this time, the reaction was concentrated in vacuo. The residue was partitioned between ethyl acetate (75 mL) and water (50 mL). The organics were washed with a saturated aqueous sodium bicarbonate solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford 1-tert-butyl-5-ethoxymethyl-1H-pyrazole-4-carboxylic acid ethyl ester (102.8 mg, 51%) as an orange oil. The material was used without further purification.

reactant | 5-bromomethyl-1-tert-butyl-1H-pyrazole-4-carboxylic acid methyl ester | 0.79 mmol, 220 mg | COC(=O)C=1C=NN(C1CBr)C(C)(C)C | C10H15BrN2O2
reactant | sodium ethoxide | 0.96 mmol, 65.4 mg | [O-]CC.[Na+]
reactant | ethanol | 0.2M, 4.0 mL | C(C)O | C2H6O
product | 1-tert-butyl-5-ethoxymethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 102.8 mg, 51% | C(C)OC(=O)C=1C=NN(C1COCC)C(C)(C)C | C13H22N2O3
